** sch_path: /home/ubuntu/GitHub/sky130-pll/.loom/worktrees/issue-92/sim/loop-ac/testbench/tb_loop_ac.sch
**.subckt tb_loop_ac
XXLF CP GND VCTRL loop_filter
I1 GND CP dc 0 ac 1
GINT GND PHI VCTRL GND 1
CINT PHI GND 1 m=1
RLEAK PHI GND 1T m=1
**** begin user architecture code

** sky130 PDK model include (tt corner) -- patched per-point by sim/harness
.lib /home/ubuntu/.volare/sky130A/libs.tech/combined/sky130.lib.spice tt

**** end user architecture code
**.ends

* expanding   symbol:  design/loop-filter/loop_filter.sym # of pins=3
** sym_path: /home/ubuntu/GitHub/sky130-pll/.loom/worktrees/issue-92/design/loop-filter/loop_filter.sym
** sch_path: /home/ubuntu/GitHub/sky130-pll/.loom/worktrees/issue-92/design/loop-filter/loop_filter.sch
.subckt loop_filter CP GND VCTRL
*.ipin CP
*.iopin GND
*.opin VCTRL
XR1 Z1 CP GND sky130_fd_pr__res_xhigh_po W=1 L=2.53 mult=1 m=1
XC1 Z1 GND sky130_fd_pr__cap_mim_m3_1 W=322 L=322 MF=1 m=1
XC2 CP GND sky130_fd_pr__cap_mim_m3_1 W=72 L=72 MF=1 m=1
XR3 VCTRL CP GND sky130_fd_pr__res_xhigh_po W=1 L=5 mult=1 m=1
XC3 VCTRL GND sky130_fd_pr__cap_mim_m3_1 W=40 L=40 MF=1 m=1
.ends

.GLOBAL GND
.temp -40
.control
set filetype=ascii
save v(phi)
alter @i1[acmag] = 550.5
ac dec 40 100 100meg
wrdata tt_-40c_1.80v-ac000.raw v(phi)
destroy all
alter @i1[acmag] = 230
ac dec 40 100 100meg
wrdata tt_-40c_1.80v-ac001.raw v(phi)
destroy all
alter @i1[acmag] = 346
ac dec 40 100 100meg
wrdata tt_-40c_1.80v-ac002.raw v(phi)
destroy all
alter @i1[acmag] = 875.5
ac dec 40 100 100meg
wrdata tt_-40c_1.80v-ac003.raw v(phi)
destroy all
echo "sim/harness: analysis complete"
.endc
.end
